US06489347B1
A solution of trans (4R)-1-benzyl-3-carboxymethyl-4-(4′-fluorophenyl)-piperidine-2-one (1.97 g) in tetrahydrofuran (20 ml) was treated with borane-tetrahydrofuran complex (19.6 ml, 1 molar) and heated at reflux for 6 hours. After cooling, the reaction was quenched with 1 molar hydrochloric acid, then stirred and heated at reflux for a further 1 hour. The mixture was cooled to ambient temperature, the pH adjusted to 9 with 1 molar sodium hydroxide, and extracted with ethyl acetate (3×20 ml). The combined organic extracts were washed with saturated sodium chloride and evaporated to give trans-(4R)-1-benzyl-4-(4′-fluorophenyl)-3-hydroxymethylpiperidine (1.59 g, 92%).

reactant | trans (4R)-1-benzyl-3-carboxymethyl-4-(4′-fluorophenyl)-piperidine-2-one | 1.97 g | C(C1=CC=CC=C1)N1C([C@H]([C@@H](CC1)C1=CC=C(C=C1)F)CC(=O)O)=O | C20H20FNO3
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | trans-(4R)-1-benzyl-4-(4′-fluorophenyl)-3-hydroxymethylpiperidine | 1.59 g, 92% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1)C1=CC=C(C=C1)F)CO | C19H22FNO
